US09371321B2
2-Amino-4-((S)-1-(6-((S)-3-aminopyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethylamino)-6-methylpyrimidine-5-carbonitrile
To a 25 mL pear flask were added 2-amino-4-(((S)-1-(6-(3-(1,3-dioxoisoindolin-2-yl)pyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile (peak 2 of PREPARATION 13, 10 mg, 0.019 mmol) and hydrazine monohydrate (0.019 mL, 0.38 mmol) in ethanol (2 mL). The mixture was heated to 75° C. for 3 hours, then diluted with acetonitrile, and directly purified by preparative HPLC (basic mode, 20-45% ACN/water gradient). The product-containing fractions were combined, concentrated, and lyophilized to give the title compound as a white solid (6.9 mg, 92%). The absolute configuration of the stereocenter on the pyrrolidine ring was not determined, but was assigned the opposite configuration of EXAMPLE 7. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41 (d, J=6.32 Hz, 3H), 1.63-1.74 (m, 1H), 2.16 (dd, J=12.25, 7.20 Hz, 1H), 2.25 (s, 3H), 2.71 (dd, J=9.09, 4.80 Hz, 1H), 3.04 (td, J=8.27, 5.18 Hz, 1H), 3.60 (t, J=6.32 Hz, 1H), 3.71-3.85 (m, 3H), 5.75 (d, J=6.82 Hz, 1H), 6.42-6.51 (m, 1H), 7.07 (br s, 2H), 7.18 (d, J=7.58 Hz, 1H), 7.51 (d, J=3.28 Hz, 1H), 7.68-7.78 (m, 1H); ESI-MS m/z [M+H]+ calc'd for C20H25N9, 392. found 392.

reactant | 2-amino-4-(((S)-1-(6-(3-(1,3-dioxoisoindolin-2-yl)pyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)-6-methylpyrimidine-5-carbonitrile | 0.019 mmol, 10 mg | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2CC(CC2)N2C(C1=CC=CC=C1C2=O)=O)C#N)C | C28H27N9O2
reactant | hydrazine monohydrate | 0.38 mmol, 0.019 mL | O.NN
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-Amino-4-((S)-1-(6-((S)-3-aminopyrrolidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethylamino)-6-methylpyrimidine-5-carbonitrile | 6.9 mg, 92% | NC1=NC(=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)N2C[C@H](CC2)N)C#N)C | C20H25N9
